US04200628
To a solution of 3.347 g (16.5 mmoles) of 1-benzoyl-2-formylpyrrolidine in a mixture of 28 ml of tetrahydrofuran and 19 ml of water are added 1.30 g (20 mmoles; 1.23 equivalents) of potassium cyanide and 1.4 ml (16.7 mmoles) of concentrated hydrochloric acid. After 1 hour, the mixture is diluted with water and extracted with chloroform. The organic layer is separated, washed with water, dried over sodium sulfate, and evaporated under reduced pressure to yield 3.8 g of crude crystalline 2-hydroxy-2-(1-benzoylpyrrolidin-2-yl)acetonitrile in quantitative yield.

reactant | 1-benzoyl-2-formylpyrrolidine | 16.5 mmoles, 3.347 g | C(C1=CC=CC=C1)(=O)N1C(CCC1)C=O | C12H13NO2
reactant | potassium cyanide | 20 mmoles, 1.30 g, 1.23 equivalents | [C-]#N.[K+]
reactant | hydrochloric acid | 16.7 mmoles, 1.4 ml | Cl | ClH
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
solvent | water | 19 ml | O | H2O
product | 2-hydroxy-2-(1-benzoylpyrrolidin-2-yl)acetonitrile | 3.8 g, quantitative yield | OC(C#N)C1N(CCC1)C(C1=CC=CC=C1)=O | C13H14N2O2
